US04459403
A solution of 5.0 g (0.043 mole) of 6H-1,2,4-oxadiazin-3,5(2H,4H)-dione, 0.025 g of ammonium sulfate, 35 ml of hexamethyldisilazane and 19.5 g (0.123 mole) of n-decylamine in 200 ml freshly distilled dry dioxane is refluxed for 17 hours. After cooling, the dioxane and hexamethyldisilazane are removed in vacuo and the syrupy residue is dried on a vacuum pump for 2 hours. The resulting semi-solid residue is triturated with 100 ml of petroleum ether and filtered to yield approximately 10 g (92 percent) of 5-decylamino-6H-1,2,4-oxadiazin-3(2H)-one.

reactant | 6H-1,2,4-oxadiazin-3,5(2H,4H)-dione | 0.043 mole, 5.0 g | O1NC(NC(C1)=O)=O | C3H4N2O3
reactant | hexamethyldisilazane | 35 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-decylamine | 0.123 mole, 19.5 g | C(CCCCCCCCC)N | C10H23N
catalyst | ammonium sulfate | 0.025 g | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-decylamino-6H-1,2,4-oxadiazin-3(2H)-one | approximately 10 g, 92 percent | C(CCCCCCCCC)NC1=NC(NOC1)=O | C13H25N3O2
